* BiROMA gate 3 (SA kickback environment): the A2 extracted-macro read
* deck frozen at ss/100C/1.62V -- one w=+1 read (row 0) then one w=-1
* read (row 1) at FSM timing (25ns states), ground return lumped as
* RGND. Template lives at cell/sky130/macro/sim_a2/a2_read.sp.tmpl.
.lib /home/mohnishp/.ciel/sky130A/libs.tech/ngspice/sky130.lib.spice ss
.temp 100
.param vdd=1.62
.include /home/mohnishp/workspace/Azara/cell/sky130/macro/build/macro_cap.spice
.include /home/mohnishp/workspace/Azara/cell/sky130/sense_se/sense_col_schematic.spice

Vdd  vpwr 0 dc {vdd}
Rgnd vgnd_m 0 2000
Vref vref 0 dc {vdd/2}

* FSM-timed controls: T0 precharge 0-25ns; T1 eval 25-50; T2 strobe 50-75;
* T3/idle 75-125 (recovery window); second read row1: T1' 125-150, T2' 150-175.
Vpre  pre_n  0 pwl(0 0 25n 0 25.2n {vdd} 75n {vdd} 75.2n 0 125n 0 125.2n {vdd} 175n {vdd} 175.2n 0)
Vwl0  wl0    0 pwl(0 0 26n 0 26.2n {vdd} 75n {vdd} 75.2n 0)
Vwl1  wl1    0 pwl(0 0 126n 0 126.2n {vdd} 175n {vdd} 175.2n 0)
Vstr  strobe 0 pwl(0 0 50n 0 50.2n {vdd} 75n {vdd} 75.2n 0 150n 0 150.2n {vdd} 175n {vdd} 175.2n 0)

Xmacro vpwr vgnd_m pre_n blp_0 bln_0 0 0 0 0 0 0 0 0 0 0 0
+ 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0
+ 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0
+ 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0
+ 0 0 0 wl0 wl1 0 0 0 0 0 0 0 0 0 0 0
+ 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0
+ 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0
+ 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0
+ 0 0 0
+ mfc_rc
Xsap blp_0 vref hit_p hitb_p strobe vpwr 0 sa_se
Xsan bln_0 vref hit_n hitb_n strobe vpwr 0 sa_se

.tran 0.05n 180n
.control
run
* read 1 (w=+1 at (0,0)): BLP_0 discharges, BLN_0 floats
meas tran blp_at_strobe  find v(blp_0) at=74n
meas tran bln_at_strobe  find v(bln_0) at=74n
meas tran bln_min        min  v(bln_0) from=26n to=49.9n
meas tran bln_post_kick  min  v(bln_0) from=50n to=75n
meas tran hitp_read1     find v(hit_p) at=74n
meas tran hitn_read1     find v(hit_n) at=74n
* precharge recovery after read 1
meas tran blp80 find v(blp_0) at=80n
meas tran blp85 find v(blp_0) at=85n
* read 2 (w=-1 at (1,0)): BLN_0 discharges, BLP_0 floats
meas tran bln_at_strobe2 find v(bln_0) at=174n
meas tran blp_at_strobe2 find v(blp_0) at=174n
meas tran hitp_read2     find v(hit_p) at=174n
meas tran hitn_read2     find v(hit_n) at=174n
quit
.endc
.end
